US05366989
In 2 ml of N,N-dimethylformamide was dissolved 0.1 g of N-(1-hydroxy-2-methylpropan-2-yl)-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanamide. To the resulting solution was added 0.012 g of 60% sodium hydride at 0°-5° C. The solution was subjected to reaction at 20°-25° C. for 30 minutes. To the reaction mixture was added 0.04 g of methyl iodide at 0°-5° C. The resulting mixture was subjected to reaction at 20°-25° C. for 12 hours. The reaction mixture was introduced into a mixed solvent consisting of 10 ml of ethyl acetate and 5 ml of water. The resulting solution was adjusted to pH 2.0 with 6N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluant: chloroform/methanol=100/1) to obtain 30 mg of N-(1-methoxy-2-methylpropan-2-yl)-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanamide.

reactant | N-(1-hydroxy-2-methylpropan-2-yl)-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanamide | 0.1 g | OCC(C)(C)NC(C(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(F)F)=O | C16H18F4N4O3
reactant | sodium hydride | 0.012 g | [H-].[Na+]
reactant | methyl iodide | 0.04 g | CI | CH3I
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-(1-methoxy-2-methylpropan-2-yl)-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanamide | 30 mg | COCC(C)(C)NC(C(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(F)F)=O | C17H20F4N4O3
